US07402585B2
N′-(5-(3-chloropropoxy)-2-cyano-4-methoxyphenyl)-N,N-dimethylimidoformamide (230 mg, 0.78 mmol) in acetic acid (0.7 ml) was heated with methyl(5-amino-1H-pyrazol-3-yl)acetate (110 mg, 0.74 mmol) at reflux for 1 hour. The mixture was cooled, the acetic acid was evaporated in vacuo, and the residue purified by chromatography on silica gel, eluting with methanol:ammonia:dichloromethane (9:1:90), to yield methyl (5-((7-(3-chloropropoxy)-6-methoxyquinazolin-4-yl)amino)-1H-pyrazol-3-yl)acetate (219 mg, 69% yield) as a cream solid:

reactant | N′-(5-(3-chloropropoxy)-2-cyano-4-methoxyphenyl)-N,N-dimethylimidoformamide | 0.78 mmol, 230 mg | ClCCCOC=1C(=CC(=C(C1)N=CN(C)C)C#N)OC | C14H18ClN3O2
reactant | methyl(5-amino-1H-pyrazol-3-yl)acetate | 0.74 mmol, 110 mg | COC(CC1=NNC(=C1)N)=O | C6H9N3O2
solvent | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
product | methyl (5-((7-(3-chloropropoxy)-6-methoxyquinazolin-4-yl)amino)-1H-pyrazol-3-yl)acetate | 219 mg, 69% yield | ClCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=NN1)CC(=O)OC)OC | C18H20ClN5O4
